US04971966
9-Chloro-11-[[2-[(diethylamino)methyl]-1-piperidinyl]acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
A mixture of 125 g (0.388 mole) of 9-chloro-11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one, 2480 ml of dry dimethyl formamide, 73.0 g (0.429 mole) of D,L-2-[(diethylamino)methyl]piperidine, 60 ml (0.429 mole) of anhydrous triethylamine and 3.0 g of sodium iodide was stirred at an internal temperature of 50° C. for 32 hours and then at room temperature for 15 hours. Insolubles were removed by filtration, and the filtrate was evaporated at the oil pump and at a bath temperature of 45° C. The remaining product was dissolved in 5% hydrochloric acid, and the solution was extracted by shaking twice with 50 ml of dichloromethane each time. The aqueous layer was made alkaline by addition of concentrated potassium carbonate solution, and the liberated base was taken up in dichloromethane, and the solution was treated with 2 g of active charcoal and dried over sodium sulphate. The dark oil remaining after the solvent had been removed by evaporation was purified by column chromatography on 800 g of silica gel (35-70 mesh) using dichloro- methane/methanol/ethyl acetate/cyclohexane/concentrated ammonia 59/7.5/25/7.5/1 (v/v) for elution. The fractions containing the compound which was sought (132 g) were dissolved in dilute aqueous maleic acid solution. The filtered solution was washed four times with 50 ml of ethyl acetate each time, and was then saturated with solid potassium carbonate and exhaustively extracted with dichloromethane. The combined dichloromethane phases were dried over sodium sulphate and evaporated, and 109 g of a partially crystallised oil remained. After recrystallisation twice from 450 ml of acetonitrile each time, using 2 g of active charcoal each time, 63.0 g (36% of theory) of colourless crystals of m.p. 167.5-169° C. were obtained.

reactant | 9-chloro-11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one | 0.388 mole, 125 g | ClC1=CC2=C(C(NC3=C(N2C(CCl)=O)N=CC=C3)=O)C=C1 | C14H9Cl2N3O2
reactant | D,L-2-[(diethylamino)methyl]piperidine | 0.429 mole, 73.0 g | CCN(CC)CC1CCCCN1 | C10H22N2
reactant | triethylamine | 0.429 mole, 60 ml | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 3.0 g | [I-].[Na+]
solvent | dimethyl formamide | 2480 ml | CN(C=O)C | C3H7NO
product | 9-Chloro-11-[[2-[(diethylamino)methyl]-1-piperidinyl]acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC1=CC2=C(C(NC3=C(N2C(CN2C(CCCC2)CN(CC)CC)=O)N=CC=C3)=O)C=C1 | C24H30ClN5O2
